US04421758
1-{Trans-β-[6-(2,4-dichlorobenzyloxy)tetrahydropyran-2-ylmethoxy]phenethyl}imidazole
A solution of 106 mg of 1-phenyl-2-(1-imidazolyl)ethanol in 1 ml of dimethylformamide was stirred with 5 mg of 55% sodium hydride at 50° C. for 30 minutes and the mixture was then left to cool at room temperature. To the resulting mixture were added 3 ml of a dimethylformamide solution containing 300 mg of trans-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran, prepared as described in Example 2(a); the mixture was then stirred at 80° C. for 4 hours and then at 90° C. for 1 hour. At the end of this time, the reaction mixture was cooled, poured into water and extracted with diethyl ether. The ethereal extract was washed with water, dried over anhydrous sodium sulphate and then concentrated to evaporation under reduced pressure. The residue was purified by column chromatography through silica gel eluted with a 30:1 by volume mixture of ethyl acetate and triethylamine, to give 107 mg of the title compound as a liquid.

reactant | 1-phenyl-2-(1-imidazolyl)ethanol | 106 mg | C1(=CC=CC=C1)C(CN1C=NC=C1)O | C11H12N2O
reactant | sodium hydride | 5 mg | [H-].[Na+]
reactant | trans-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 300 mg | ClC1=C(CO[C@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C=CC(=C1)Cl | C20H22Cl2O5S
reactant | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-{Trans-β-[6-(2,4-dichlorobenzyloxy)tetrahydropyran-2-ylmethoxy]phenethyl}imidazole | 107 mg | ClC1=C(CO[C@H]2CCC[C@@H](O2)COC(CN2C=NC=C2)C2=CC=CC=C2)C=CC(=C1)Cl | C24H26Cl2N2O3
